Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain and nausea
 
Major Surgical or Invasive Procedure:
diagnostic laparoscopy converted to ex lap, right 
salpingo-oophorectomy, pelvic washings

 
History of Present Illness:
 Ms. ___ is a ___ year old G0 who was transferred from
___ ___ with abdominal and pain and a right ovarian
mass. 

She reports waking up at 0200 on ___ with nausea and vomited one
time. She then went back to sleep. When she awoke later that
morning, she reports having lower mid abdominal pain along with
more left lower quadrant pain. She vomited about 4 times on
___. She took two doses of Tylenol for the pain and also
applied Bengay to her abdomen. She then reports that the next
day, the nausea and vomiting continued along with her abdominal
pain. She does report that she ate potato salad for a ___
event but does not think anyone else has had the same symptoms
She presented to the ___ at 1300 for further work up
of the pain and nausea. At the OSH, she received 1000 mg IV
acetaminophen at 1600, 2mg IV morphine at 1610 and 4 mg IV
morphine at 1720. Her workup there was notable for a WBC count 
of
18.8, Hct 24.6 and normal lipase, LFTs, t bili. She underwent a
CT A/P which showed " a very large right ovarian mass which
likely is twisted on its pedicle as it traverses the midline and
ascends into the left mid abdomen. There is mild associated
infiltration of the perilesional fat and of the fat adjacent to
the ovarian pedicle. There is free fluid in the right lower
quadrant and deep pelvis. These findings suggest acute ovarian
torsion in association with a large ovarian mass. Excision of 
the
mass is advised. 2. There is a mild left pleural fluid 
collection
of unclear etiology.3. Likely right sided aortic arch. The arch
itself was not in the field-of-view. A right-sided aortic arch
carries with it and approximately 5% association with congenital
heart disease." 
She was then transferred to ___ ED for further work up of the
mass. 
Here, she reports continued abdominal pain though was taking a
nap earlier now that she is back from ultrasound. She still 
feels
nauseous but has not had any emesis today.  She denies diarrhea,
hematemesis, melena, hematochezia, GERD. She was able to 
tolerate
some rice and ginger ale yesterday. Has not eaten anything today
as she is not hungry. She reports her LMP was two weeks ago and
she normally has monthly periods with heavy vaginal bleeding and
dysmenorrhea. She has to change a pad every ___ hours during the
first 3 days of her period that is fully saturated. She also
takes ___ pills of midol a day on her period. She was previously
on an OCP (unknown name) which she stopped taking one year ago
due to acne issues. She is sexually active, last 5 months ago.
Denies history of STIs or pregnancies. She was unaware prior to
today of having an ovarian cyst. She last saw her PCP ___ 2
months ago for her anxiety and depression when she decided to
stop taking her meds. She reports being told she has anemia,
prediabetes, and hypertension. She denies ever having started 
any
medications for the above listed issues. She denies ever seeing
an OBGYN or ever having a pap smear. 

 
Past Medical History:
- ADHD: no meds
- Anxiety/ Depression: no meds 
- chronic anemia: no meds
- prediabetes
- hypertension: no meds 

 
Social History:
___
Family History:
Denies maternal family history of breast,
ovarian, colon, endometrial cancer. Unsure of paternal side of
family history. 
 
Physical Exam:
Discharge physical exam
Vitals: stable and within normal limits
Gen: no acute distress; alert and oriented to person, place, and 
date
CV: regular rate and rhythm; no murmurs, rubs, or gallops
Resp: no acute respiratory distress, clear to auscultation 
bilaterally
Abd: soft, appropriately tender, no rebound/guarding; incision 
clean, dry, intact
Ext: no tenderness to palpation
 
Pertinent Results:
Labs on Admission:

___ 07:45PM BLOOD WBC-19.9* RBC-2.82* Hgb-6.6* Hct-22.1* 
MCV-78* MCH-23.4* MCHC-29.9* RDW-15.7* RDWSD-44.6 Plt ___
___ 07:45PM BLOOD Neuts-80.5* Lymphs-11.1* Monos-7.6 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-16.03* AbsLymp-2.22 
AbsMono-1.52* AbsEos-0.00* AbsBaso-0.04
___ 07:45PM BLOOD ___ PTT-26.2 ___
___ 07:45PM BLOOD Glucose-118* UreaN-12 Creat-0.6 Na-138 
K-3.9 Cl-103 HCO3-23 AnGap-12
___ 07:45PM BLOOD ALT-<5 AST-15 AlkPhos-73 TotBili-0.4
___ 07:45PM BLOOD Albumin-4.0
___ 05:52AM BLOOD HCG-<5
___ 07:45PM BLOOD CEA-1.9 CA125-349*
___ 05:52AM BLOOD AFP-1.4
___ 05:00PM BLOOD Lactate-1.1

Relevant Labs:

___ 09:10AM BLOOD WBC-14.6* RBC-3.77* Hgb-9.3* Hct-30.3* 
MCV-80* MCH-24.7* MCHC-30.7* RDW-15.9* RDWSD-46.6* Plt ___
___ 09:10AM BLOOD Neuts-65.5 ___ Monos-7.2 Eos-5.2 
Baso-0.3 NRBC-0.6* Im ___ AbsNeut-9.55* AbsLymp-2.84 
AbsMono-1.05* AbsEos-0.75* AbsBaso-0.04
___ 09:10AM BLOOD Plt ___
___ 09:10AM BLOOD Glucose-105* UreaN-7 Creat-0.7 Na-145 
K-3.6 Cl-99 HCO3-31 AnGap-15
___ 09:10AM BLOOD proBNP-225*
___ 09:10AM BLOOD Calcium-7.1* Phos-5.1* ___
MRSA SCREEN (Final ___: No MRSA isolated. 

 
Brief Hospital Course:
Ms. ___ is a ___ G1P0 who initially presented on ___ with 
waxing and waning abdominal pain that acutely worsened on 
evening of HD#1. On evening of ___, she subseqeuently underwent 
a diagnostic laparoscopy, converted to ex lap, for right 
salipingoopherectomy.Please see the operative report for full 
details.

Ovarian torsion was noted and intra-op pathology returned as 
likely fibroma, final path pending. On admission she was noted 
to have anemia with nadir to 21.9 pre-op. She received 1 unit 
pRBCs pre-operatively with additional units held due to fever. 
On post-op day one her Hct was 20.9 and she received an 
additional unit pRBC with appropriate rise in Hct to 27.4. A 
chest x-ray performed on presentation identified a small to 
moderate L pl effusion, pulm vascular congestion w/o 
interstitial edema. She had an acute episode of oxygen 
desaturation and difficulty breathing on HD#1 at the time of her 
acutely-worsened pain. A CTA chest was obtained and ruled out 
PE. Repeat CXR POD#1 showed stable L pleural effusion w/ 
subsegmental atelectasis in LL base, trace R eff. She continued 
to have increased oxygen demands post-operatively and was placed 
on continuous O2 monitoring which noted saturations in the low 
___ on RA at baseline with desaturations to as low as high ___ 
while sleeping. Desaturations were concerning for undiagnosed 
OSA and CPAP was ordered for remainder of her hospital stay. She 
also received one dose of lasix for concern of pulmonary edema 
contributing to her oxygen requirements. Repeat CTA chest on 
___ showed no PE but did identify multifocal PNA for which she 
was started on Vancomycin empirically and narrowed to 
doxycycline and levoquin. During her stay she also had multiple 
episodes of severe HTN to >180/110s, requiring hydralazine for 
acute stabilization. Medicine was consulted and recommended she 
be started on amlodipine 5 mg, then increased to 10 mg, daily. 
Of note, we also obtained an echocardiogram to evaluate for 
heart failure in the context of persistent tachycardia and low 
O2 sats. The TTE was wnl. 

By post-operative day 4, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.

 
Medications on Admission:
- Tylenol PRN
- Midol PRN
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
do not take more than 4000 mg in 24 hours 
RX *acetaminophen 500 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1 
2.  amLODIPine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth once per day Disp #*30 
Tablet Refills:*1 
3.  Docusate Sodium 100 mg PO BID 
Take while taking opiates. Do not take if having loose stools. 
RX *docusate sodium 50 mg/5 mL 10 ml liquid by mouth twice a day 
Refills:*1 
4.  Doxycycline Hyclate 100 mg PO BID 
please take full course of this antibiotic 
RX *doxycycline hyclate 100 mg 1 (One) tablet(s) by mouth twice 
a day Disp #*9 Tablet Refills:*0 
5.  Ibuprofen Suspension 600 mg PO Q6H 
Take with food 
RX *ibuprofen 100 mg/5 mL ___ ml by mouth every six (6) hours 
Refills:*1 
6.  LevoFLOXacin 750 mg PO Q24H 
please take full course of this antibiotic 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once per day Disp 
#*4 Tablet Refills:*0 
7.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
may cause sedation. do not drink alcohol or drive while taking. 
RX *oxycodone 5 mg 1 tab by mouth every four (4) hours Disp #*10 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ovarian mass, ovarian torsion 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for management of a 
newly diagnosed pelvic mass. You underwent surgery, which found 
that the mass had caused your ovary to be twisted on itself. The 
mass involved your right ovary, and both were removed during 
your operation. Our initial pathology report suggests that the 
mass is most likely benign (non-cancerous), but you will go over 
the final report when you follow up in clinic with Dr. ___. 
After your procedure, there was concern about how well you were 
breathing. We obtained a number of tests, including a CT scan of 
your chest and an ultrasound of your heart, to evaluate what 
might be causing your lower oxygen levels. These imaging studies 
noted that there was some fluid on your lungs that might be 
contributing to your breathing issues, but overall we suspect 
this issue is related to sleep apnea. You have not previously 
been diagnosed with sleep apnea, and you will still need to be 
evaluated by a sleep medicine specialist to confirm this and 
treat you. The imaging studies also identified a pneumonia, and 
you were started on antibiotics to treat this. We will provide 
you with antibiotics that you will continue to take for a few 
days once you are home. Lastly, we had some concern about your 
high blood pressure and you were started on a daily medication 
(amlodipine) for this. Please continue to take this, and follow 
up with your PCP about your high blood pressure.

Overall, you have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office with 
any questions or concerns. Please follow the instructions below.

Please make sure you contact your employer to obtain the 
necessary paperwork to excuse you from work for the next 6 
weeks. Please fax your forms to ___ and we will be able 
to fill it out for you.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking opioids (e.g. oxycodone, 
hydromorphone)
* Take a stool softener such as colace while taking opioids to 
prevent constipation.
* Do not combine opioid and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* No heavy lifting of objects >10 lbs for 6 weeks. A letter was 
provided for you to share with your employer to dismiss you from 
work activities that require you to lift heavy objects.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Leave the steri-strips in place. They will fall off on their 
own. If they have not fallen off by 7 days post-op, you may 
remove them.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___